US04141977
(D) Synthesis of 6-Aminonicotinic acid ethyl ester
6-Aminonicotinic acid, 40 g (or 6-aminonicotinic acid phosphoric salt, 62 g), was mixed with anhydrous ethanol 500 ml. The mixture was externally cooled by an ice water bath. Thionyl chloride, 50 ml, was slowly added into the mixture. (N,N-Dimethylformamide, 50 ml, may be added to dissolve any still undissolved phosphoric salt.) The reaction mixture was heated to 80° C. for 5 hours and was then evaporated to a syrupy reside which crystallized on addition of acetone. These crystals were separated by filtration and were redissolved in 400 g of ice water. 4N KOH was added to the solution to adjust the pH to 8. The white crystals thus formed were separated again by filtration and were washed with water. The yield of practically pure 6-aminonicotinic acid ethyl ester was 41.8 g. This product had an Rf value of 0.79 on thin-layer chromatogram using a solvent system of benzene:methanol, 1:1.

reactant | 6-Aminonicotinic acid | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
reactant | ethanol | 500 ml | C(C)O | C2H6O
reactant | Thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-Dimethylformamide | CN(C=O)C | C3H7NO
product | 6-Aminonicotinic acid ethyl ester | C(C)OC(C1=CN=C(C=C1)N)=O | C8H10N2O2
